US08541588B2
2-{1-[1-(Diphenylmethyl)azetidin-3-yl]-1H-pyrazol-5-yl}-4-fluorophenol
1-(diphenylmethyl)-3-hydrazinoazetidine dihydrochloride (Preparation 690, 1.25 g, 4.30 mmol) was stirred in ethanol (20 ml) and acetic acid (8 ml) for 30 minutes with ice cooling to give a suspension. To this cold suspension was added (2E)-3-(dimethylamino)-1-(5-fluoro-2-hydroxyphenyl)prop-2-en-1-one (Preparation 221, 900 mg, 4.3 mmol), stirred at 0° C. for 1 hour then allowed to warm up to room temperature over 18 hours. The reaction mixture was evaporated and then partitioned between ethyl acetate (100 ml), water (50 ml) and saturated aqueous sodium hydrogencarbonate solution (30 ml). The organic layer was separated and back-washed with saturated aqueous sodium chloride solution (2×20 ml), dried over sodium sulphate, filtered and evaporated. The solid was triturated with diethyl ether and the off-white solid filtered. The solid was crystallized from ethyl acetate:hexane (1:4) to give the title compound as colourless crystals were. Yield 490 mg 29%.

reactant | 1-(diphenylmethyl)-3-hydrazinoazetidine dihydrochloride | 4.30 mmol, 1.25 g | Cl.Cl.C1(=CC=CC=C1)C(N1CC(C1)NN)C1=CC=CC=C1
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | (2E)-3-(dimethylamino)-1-(5-fluoro-2-hydroxyphenyl)prop-2-en-1-one | 4.3 mmol, 900 mg | CN(/C=C/C(=O)C1=C(C=CC(=C1)F)O)C | C11H12FNO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-{1-[1-(Diphenylmethyl)azetidin-3-yl]-1H-pyrazol-5-yl}-4-fluorophenol | C1(=CC=CC=C1)C(N1CC(C1)N1N=CC=C1C1=C(C=CC(=C1)F)O)C1=CC=CC=C1 | C25H22FN3O
